* D:\2024-25\Education\ELE713\Project\[03] Simulation\Forward-Converter.asc
R2 N004 0 {RL}
C1 N004 0 {Cf} Rser=2m
V2 N005 N008 PULSE(0 1 0 1n 1n {D*1/fs} {1/fs})
D2 0 P001 D1
D1 N002 N003 D1
D3 0 N003 D1
L4 N003 N004 {Lf} Rser=50m
L§ind3 P001 N001 {L3} Rser=20m
L§ind2 N002 0 {L2} Rser=20m
L§ind1 N001 N006 {L1} Rser=20m
sw 0 N006 N005 N008 NMOS
B1 N001 0 V={Vi}
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.011 0.01 0.01u
K1 ind1 ind2 ind3 1
.param L1 220u
.param L2  35.5u
.param L3 220u
.param fs  200k
.param Cf 660u
.param RL 0.625
.param Lf 24u
.param Vi 36
.param D 0.4
.backanno
.end
